US04794108
In 200 ml of methanol is suspended 3.69 g (11 mmole) of trans-1-benzyloxy-3-(tert-butoxycarbonylamino)-4-carbamoyl-2-azetidinone, and 350 mg of 10% palladium-charcoal is added to the suspension, followed by stirring under a hydrogen atmosphere at room temperature for 30 minutes. The catalyst is filtered off, and the filtrate is concentrated to dryness under reduced pressure to give 2.7 g of trans-3-(tert-butoxycarbonylamino)-4-carbamoyl-1-hydroxy-2-azetidinone as a yellowish foamy product.

reactant | trans-1-benzyloxy-3-(tert-butoxycarbonylamino)-4-carbamoyl-2-azetidinone | 11 mmole, 3.69 g | C(C1=CC=CC=C1)ON1C([C@H]([C@@H]1C(N)=O)NC(=O)OC(C)(C)C)=O | C16H21N3O5
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium-charcoal | 350 mg | [Pd] | Pd
product | trans-3-(tert-butoxycarbonylamino)-4-carbamoyl-1-hydroxy-2-azetidinone | 2.7 g | C(C)(C)(C)OC(=O)N[C@@H]1C(N([C@H]1C(N)=O)O)=O | C9H15N3O5
